US06503903B1
b) tert-Butyl (R)-4-fluoro-3-[[[N-(benzyloxycarbonyl)serinyl]-phenethylamino]methyl]benzoate
According to the procedure of Preparation 4(c), except using tert-butyl 4-fluoro-3-[(phenethylamino)methyl]benzoate (5.00 g, 15.2 mmole), N-(benzyloxycarbonyl)-D-serine (3.83 g, 16 mmole), HOBt.H2O (2.16 g, 16 mmole), Et3N (2.24 mL, 16 mmole), EDC.HCl (3.07 g, 16 mmole), and 1:1 DMF/CH2Cl2 (75 mL), the title compound (3.44 g, 41%) was prepared as a thick oil following flash chromatography on silica gel (40% EtOAc/hexanes): 1H NMR (300 MHz, DMSO-d6) mixture of amide rotamers δ 7.31-8.18 (m, 2 H), 7.19-7.29 (m, 11 H), 4.86-5.11 (m, 4 H), 4.33-4.79 (m, 3 H), 3.49-3.80 (m, 4 H), 1.51 (s, 9 H).

reactant | tert-butyl 4-fluoro-3-[(phenethylamino)methyl]benzoate | 15.2 mmole, 5.00 g | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CNCCC1=CC=CC=C1 | C20H24FNO2
reactant | N-(benzyloxycarbonyl)-D-serine | 16 mmole, 3.83 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CO)C(=O)O | C11H13NO5
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 16 mmole, 2.16 g | O | H2O
reactant | Et3N | 16 mmole, 2.24 mL | CCN(CC)CC | C6H15N
reactant | EDC.HCl | 16 mmole, 3.07 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF CH2Cl2 | 75 mL | CN(C)C=O.C(Cl)Cl
product | tert-Butyl (R)-4-fluoro-3-[[[N-(benzyloxycarbonyl)serinyl]-phenethylamino]methyl]benzoate | 3.44 g, 41% | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CN(CCC1=CC=CC=C1)C([C@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C31H35FN2O6
